US06391874B1
(S)-1-(5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-ylmethyl)-pyrrolidine-2-carboxylic acid amide
5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde and L-prolinamide were reacted in an analogous manner to Example 10 to give the title compound; δH [2H6]-DMSO 9.85 (1H, b), 8.72 (1H, s), 8.50 (1H, s), 8.14 (1H, d), 7.79 (1H, d), 7.71 (2H, d), 7.54-7.31 (5H, m), 7.24 (1H, s), 7.17 (1H, s), 7.09 (2H, d), 7.02 (1H, d), 6.53 (1H, d), 5.15 (2H, s), 3.82 (2H, s), 3.42 (1H, b), 3.12 (2H, b), 1.85-1.67 (4H, m); m/z 520 (M+1)+.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C=O | C26H19N3O3
reactant | L-prolinamide | N1[C@H](C(=O)N)CCC1 | C5H10N2O
product | (S)-1-(5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-ylmethyl)-pyrrolidine-2-carboxylic acid amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)CN1[C@@H](CCC1)C(=O)N | C31H29N5O3
